US07482355B2
i) 6-{[(1R)-2-hydroxy-1-methylethyl]amino}-2-mercapto-4-pyrimidinol
6-Amino-2-mercapto-4-pyrimidinol (16.1 g), AcOH (14.3 ml) and (R)-Alaninol (39 ml) were heated at 170° C. for 5 h. The mixture was cooled to approximately 50° C., diluted with water (500 ml) and cooled at 0° C. for 20 h. The resulting solid was filtered, washed with water and dried in vacuo to yield a mixture of subtitle product and starting material (2:1) as a cream coloured solid. Yield 7.2 g.

reactant | 6-Amino-2-mercapto-4-pyrimidinol | 16.1 g | NC1=CC(=NC(=N1)S)O | C4H5N3OS
reactant | AcOH | 14.3 ml | CC(=O)O | C2H4O2
reactant | (R)-Alaninol | 39 ml | N[C@H](C)CO | C3H9NO
solvent | water | 500 ml | O | H2O
product | 6-{[(1R)-2-hydroxy-1-methylethyl]amino}-2-mercapto-4-pyrimidinol | OC[C@@H](C)NC1=CC(=NC(=N1)S)O | C7H11N3O2S
